US08138336B2
Preparation of phenyl (6-methylpyridin-2-yl)carbamate
Phenyl chloroformate (232 mL, 1.84 mol) was added dropwise (1.5 h) to a cooled (0° C.) solution of 2-amino-6-picoline (200 g, 1.84 mol) and pyridine (448 mL, 5.55 mol) in THF (1.6 L). The reaction was stirred, with continued cooling for 15 h. Water (500 mL) was added slowly (30 min) and then the mixture was diluted with ethyl acetate (2 L). The layers were separated and the organic layer was washed with 1 N hydrochloric acid (3×1 L), 1 N aqueous sodium hydroxide solution (500 mL) and brine (500 mL). The organic layer was then dried over sodium sulfate and concentrated under reduced pressure. The residue was suspended in hexane (500 mL) for 30 min and then filtered to afford the desired product (220 g, 52%) containing some trace impurities. 1H-NMR (300 MHz, DMSO-d6) δ 10.68 (s, 1H), 6.93-7.74 (m, 8H), 2.42 (s, 3H); ES-MS m/z 229.4 (MH)+; HPLC RT (Method A) 2.94 min.

reactant | Phenyl chloroformate | 1.84 mol, 232 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 2-amino-6-picoline | 1.84 mol, 200 g | NC1=NC(=CC=C1)C | C6H8N2
reactant | pyridine | 5.55 mol, 448 mL | N1=CC=CC=C1 | C5H5N
reactant | Water | 500 mL | O | H2O
solvent | THF | 1.6 L | C1CCOC1 | C4H8O
solvent | ethyl acetate | 2 L | C(C)(=O)OCC | C4H8O2
product | phenyl (6-methylpyridin-2-yl)carbamate | 220 g, 52% | CC1=CC=CC(=N1)NC(OC1=CC=CC=C1)=O | C13H12N2O2
